US05869485
5-(3-Hydroxy-4-methoxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine
0.75 g of 5-(3-benzyloxy-4-methoxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine is hydrogenated in a hydrogen atmosphere at normal pressure and about 50° C. for 12 h in 20 ml of THF and 10 ml of ethanol in the presence of 0.2 g of 5% palladium/carbon. After filtration through Celite and crystallization of the residue from methylene chloride, 5-(3-hydroxy-4-methoxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo[2,3-d]pyrimidine having an m.p. of 205°-207° C. is obtained.

reactant | 5-(3-benzyloxy-4-methoxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine | 0.75 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCN2C=NC=C2 | C31H28N6O3
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | palladium/carbon | 0.2 g | [Pd] | Pd
product | 5-(3-Hydroxy-4-methoxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine | OC=1C=C(C=CC1OC)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCN2C=NC=C2 | C24H22N6O3
